US08071609B2
C) 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide
3-iodo-4-methylbenzoic acid (2.62 g, 10 mmol) was refluxed in SOCl2 (10 mL) for 1 h. The volatile components were removed on a rotavap and the residue was dissolved in benzene (10 mL), concentrated to dryness on a rotavap and further dried under vacuum. The resulting acyl chloride was added to a solution 3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)benzenamine (2.46 g, 10.2 mmol), N,N-diisopropylethylamine (1.56 g, 12 mmol), and a catalytic amount of DMAP in THF (20 mL). After stirring at rt for 2 h, the reaction was quenched with water. EtOAc was added and the layers separated. The combined organic layers were concentrated to dryness and used without purification in next step.

reactant | 3-iodo-4-methylbenzoic acid | 10 mmol, 2.62 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | 3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)benzenamine | 10.2 mmol, 2.46 g | CC=1N=CN(C1)C=1C=C(C=C(C1)C(F)(F)F)N | C11H10F3N3
reactant | N,N-diisopropylethylamine | 12 mmol, 1.56 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-iodo-4-methyl-N-(3-(4-methyl-1H-imidazol-1-yl)-5-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=CC1C | C19H15F3IN3O
